US08017607B2
In a manner similar to the method described in Example 19, rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-1-(4-cyano-benzoyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (27.6 mg, 0.05 mmol) was reacted with 30% H2O2 (1.0 mL, excess), K2CO3 (excess) in DMSO (2 mL) at rt overnight to give rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzamide (15.3 mg, 56.7%). HRMS (ES+) m/z Calcd for C30H27Cl2F2N3O2+H [(M+H)+]: 570.1521, found: 570.1523.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-1-(4-cyano-benzoyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.05 mmol, 27.6 mg | ClC=1C(=C(C=CC1)C1N(CC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(C1=CC=C(C=C1)C#N)=O)F | C30H25Cl2F2N3O
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzamide | 15.3 mg, 56.7% | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)C1=CC=C(C(=O)N)C=C1)F | C30H27Cl2F2N3O2
